US09168259B2
To a solution of 1.19 g (3.8 mmol) 2,6-dichloro-N-(3-fluorobenzyl)-4-methyl-pyridine-3-carboxylic acid amide (synthesis is described in section a) of example 2) in DMF (12 ml) were added 1.05 g (7.6 mmol) K2CO3 and 683 mg (3.8 mmol) 3-methoxy-N-methylcyclohexanamine and the reaction mixture was heated at 110° C. for 16 h. The mixture was then poured into water and extracted with EtOAc. The organic layer was washed with water and brine, dried over Na2SO4 and concentrated in vacuo. Purification of the residue by CC (hexane/EtOAc 4:1) provided 850 mg (2.7 mmol, 32%) 2-chloro-N-(3-fluorobenzyl)-6-((3-methoxycyclohexyl)(methyl)amino)-4-methyl-pyridine-3-carboxylic acid amide.

reactant | 2,6-dichloro-N-(3-fluorobenzyl)-4-methyl-pyridine-3-carboxylic acid amide | 3.8 mmol, 1.19 g | ClC1=NC(=CC(=C1C(=O)NCC1=CC(=CC=C1)F)C)Cl | C14H11Cl2FN2O
reactant | K2CO3 | 7.6 mmol, 1.05 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-methoxy-N-methylcyclohexanamine | 3.8 mmol, 683 mg | COC1CC(CCC1)NC | C8H17NO
reactant | water | O | H2O
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 2-chloro-N-(3-fluorobenzyl)-6-((3-methoxycyclohexyl)(methyl)amino)-4-methyl-pyridine-3-carboxylic acid amide | 2.7 mmol, 850 mg, 32% | ClC1=NC(=CC(=C1C(=O)NCC1=CC(=CC=C1)F)C)N(C)C1CC(CCC1)OC | C22H27ClFN3O2
